US07465795B2
4-amino-N-propyl-8-(3-pyridyl)cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (200 mg, 0.647 mmol) and pyridin-3-ylboronic acid (160 mg, 1.301 mmol) were reacted to afford the title compound (153 mg, 74% yield) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 8.89 (m, 1H), 8.68 (m, 1H), 8.54 (br, 1H), 8.13 (m, 1H), 7.93 (m, 1H), 7.85-7.73 (m, 2H), 7.44 (m, 1H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 1.68 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.0 Hz, 3H). MS APCI, m/z=308 (M+H) HPLC 1.46 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.647 mmol, 200 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | pyridin-3-ylboronic acid | 1.301 mmol, 160 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 4-amino-N-propyl-8-(3-pyridyl)cinnoline-3-carboxamide | 153 mg, 74% yield | NC1=C(N=NC2=C(C=CC=C12)C=1C=NC=CC1)C(=O)NCCC | C17H17N5O
